US05840732
ii) Synthesis of 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione dihydrochloride
To a solution of 0.40 g (0.722 mmol) of 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione in 10 ml of methanol, 0.18 ml (2.2 mmol) of concentrated hydrochloric acid was added. After the reaction mixture was concentrated to dryness, the residue was washed with diethyl ether to yield 0.36 g (79.5%, light white foamy substance) of the desired product.

reactant | 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.722 mmol, 0.40 g | CN(C)CC1=CN=C2N1C(=CC=C2)SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)C2=CC=CC=C2)=O | C27H31N5O4S2
reactant | hydrochloric acid | 2.2 mmol, 0.18 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 7-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]1,1-dioxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione dihydrochloride | Cl.Cl.CN(C)CC1=CN=C2N1C(=CC=C2)SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)C2=CC=CC=C2)=O | InChI=1S/C27H31N5O4S2.2ClH/c1-29(2)19-21-18-28-22-12-8-13-23(32(21)22)37-16-7-6-14-30-25(33)24(20-10-4-3-5-11-20)26-31(27(30)34)15-9-17-38(26,35)36;;/h3-5,8,10-13,18H,6-7,9,14-17,19H2,1-2H3;2*1H
